US07544812B2
2-(2-Fluoro-phenoxy)-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester:
4-Trifluoromethylbenzyl bromide (0.03 mL, 0.169 mmol, d=1.546) and tetrabutyl ammonium iodide (catalytic amount) are added to a 0° C. suspension of 2-(2-Fluoro-phenoxy)-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester (0.050 g, 0.113 mmol) and sodium hydride (0.011 g, 0.281 mmol, 60% suspension on mineral oil), and pre-stirred for 1 h at ambient temperature. The reaction mixture is stirred at ambient temperature for 18 h, diluted with ethyl acetate, and washed with 1N HCl, water, and brine. The organic layer is dried, concentrated, and carried into the next step. MS [EI+] 603 (M+H)+.

reactant | 4-Trifluoromethylbenzyl bromide | 0.169 mmol, 0.03 mL | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 2-(2-Fluoro-phenoxy)-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 0.113 mmol, 0.050 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(C)OC1=C(C=CC=C1)F)=O | C24H29FN2O5
reactant | sodium hydride | 0.281 mmol, 0.011 g | [H-].[Na+]
catalyst | tetrabutyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Fluoro-phenoxy)-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(C)OC1=C(C=CC=C1)F)=O | C32H34F4N2O5
